simulator lang=spectre
global 0

ahdl_include "./dut/clocked_comparator_dual_output.va"

Vclk (clk 0) vsource type=pwl wave=[0 0 0.2n 0 0.22n 1.0 0.8n 1.0 0.82n 0 1.4n 0 1.42n 1.0 2.0n 1.0 2.02n 0 2.7n 0]
Vinp (vinp 0) vsource type=pwl wave=[0 0.7 1.0n 0.7 1.05n 0.2 2.7n 0.2]
Vinn (vinn 0) vsource dc=0.5
XDUT (clk vinn vinp outn outp) clocked_comparator_dual_output

tran tran stop=2.5n maxstep=5p
save clk vinn vinp outn outp
