simulator lang=spectre
global 0

ahdl_include "./dut/noise_gen_ref.va"

// Exercise both the public defaults and one legal parameter override.
Vvin (vin_i 0) vsource type=dc dc=0.7
IDUT_DEFAULT (vin_i vout_default) noise_gen
IDUT_OVERRIDE (vin_i vout_override) noise_gen sigma=0.037 dt=0.8n

tran tran stop=20n maxstep=0.05n
save vin_i vout_default vout_override
