simulator lang=spectre
global 0

ahdl_include "./dut/fm_vco_modulation_source.va"

Vmod_in (mod_in 0) vsource type=pwl wave=[0 0.45 10n 0.45 10.2n 0.45 420n 0.45 420.2n 0.85 800n 0.85 800.2n 0.45 840n 0.45 840.2n -2.0 3200n -2.0 3220n -2.0]
Venable (enable 0) vsource type=pwl wave=[0 0 5n 0 5.2n 0.9 3200n 0.9 3200.2n 0 3220n 0]
Vrst (rst 0) vsource type=pwl wave=[0 0.9 3n 0.9 3.2n 0 805n 0 805.2n 0.9 830n 0.9 830.2n 0 3220n 0]
XDUT (mod_in enable rst osc_out freq_metric phase_marker valid) fm_vco_modulation_source


simulatorOptions options evas_profile=balanced

tran tran stop=3220n maxstep=1n
save mod_in enable rst osc_out freq_metric phase_marker valid
