simulator lang=spectre
global 0

ahdl_include "./dut/hysteresis_trip_characterizer.va"
ahdl_include "./dut/support/support_hysteretic_comparator.va"

Vvdd (vdd 0) vsource dc=0.9
Vvss (vss 0) vsource dc=0.0
Vref (vref 0) vsource dc=0.50
Vvin (vin 0) vsource type=pwl wave=[0 0.450 12n 0.555 24n 0.440 36n 0.560 48n 0.435 52n 0.435]

// The public support comparator is mounted read-only from the declared support contract.
XCMP (vdd vss vin vref cmp_out) support_hysteretic_comparator offset=-4m vhys=70m td=90p tr=25p
XMEAS (vdd vss vin cmp_out trip_rise trip_fall hyst_width valid) hysteresis_trip_characterizer tr=15p


tran tran stop=52n maxstep=20p
save vdd vss vin cmp_out trip_rise trip_fall hyst_width valid
